US09126950B2
A solution of 4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)aniline (4.02 g) and N-(3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)acrylamide (4.0 g) in 1-butanol (10 mL) was heated to 135° C. for 3 hr. The reaction was monitored on TLC using CHCl3: methanol (9.5:0.5) as mobile phase. After completion of the reaction, butanol was removed under reduced pressure and water was added. The mixture was extracted with ethyl acetate. Organic layer was dried over sodium sulfate and solvent was removed under reduced pressure. Crude material was purified by Combiflash chromatography eluting with 2.5% methanol in CHCl3 to give 0.828 g of N-(3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)acrylamide.

reactant | 4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)aniline | 4.02 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(N)C=C1 | C14H25NO2Si
reactant | N-(3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)acrylamide | 4.0 g | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(C=C)=O)F | C13H10ClFN4O
reactant | CHCl3 methanol | C(Cl)(Cl)Cl.CO
solvent | 1-butanol | 10 mL | C(CCC)O | C4H10O
product | N-(3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)acrylamide | 0.828 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(C=C)=O)F | C27H34FN5O3Si
